US07745641B2
In a similar manner to Step 2 of Example 6, 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-formylindol-2-yl]isoindolinone (0.226 g, 0.452 mmol) was dissolved in acetonitrile (15.0 mL) and the solution was treated with diethylamine (0.935 mL, 9.03 mmol), acetic acid (0.517 mL, 9.03 mmol) and sodium triacetoxyborohydride (0.479 g, 2.26 mmol), followed by purification of the residue by flash column chromatography (chloroform/methanol=3/1) to obtain 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-(diethylaminomethyl)indol-2-yl]isoindolinone (0.144 g, 57%).

reactant | 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-formylindol-2-yl]isoindolinone | 0.452 mmol, 0.226 g | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=CC(=C2C1)C=O)C(=O)OC(C)(C)C)=O | C24H24N2O8S
reactant | diethylamine | 9.03 mmol, 0.935 mL | C(C)NCC | C4H11N
reactant | acetic acid | 9.03 mmol, 0.517 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.26 mmol, 0.479 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetonitrile | 15.0 mL | C(C)#N | C2H3N
product | 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-(diethylaminomethyl)indol-2-yl]isoindolinone | 0.144 g, 57% | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=CC(=C2C1)CN(CC)CC)C(=O)OC(C)(C)C)=O | C28H35N3O7S
